Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I think I'm suicidal because I'm so sleep-deprived"
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms. ___ is a ___ year old woman with no significant PMH or 
PPH.
She describes having a couple of depressive episodes in the 
past,
but she has never had any suicide attempts.  She was previously
on a two week vacation from her job in ___ and
attending the ___.  She has been having
problems with sleep (sleeping only ___ hours/night) for the last
two weeks.  She also notices that was having such a problem
getting out of bed in the morning when she finally fell asleep
that she was lacking the motivation to get up and go to work. 
She endorses over-eating.  In the past week, she moved in with
her parents because she has had such little motivation to get 
out
of bed.  

Recent stressors are numerous - she recently broke up with her
partner of ___ years that she describes as a formative 
relationship
in her life.  They moved in together ___ years ago.  She recently
moved out and got into a new place which is actually tilted and
she very uncomfortable.  

At work, her coworker, who she describes as beloved by many and
very talented, left.  She now has more responsibilities and 
feels
inadequate and inferior to this person that left, and she feels
tremendous pressure to fill his role.  

Initially after the break up (which she initiated with her
partner as she originally felt smothered in the relationship),
___ describes herself as "happy".  She reconnected with many
people over the summer and describes herself as "the happiest
ever".  She denies symptoms of mania such as risk-taking
behavior, goal-directed activities, rapid or pressured speech,
grandiosity.  Everything was going well but in the past month or
so (in the context of the move, a new job, stress) the patient
has realized how lonely she is without her partner and wonders 
if
she'll ever find someone to spend her life with.  She describes
herself as never on her own as an adult before and she became so
overwhelmed with lack of sleep, feeling lonely, feeling down,
that she did not see a way out and became passively suicidal 7
days ago.  She describes the feeling as "I don't want to do this
anymore".  In the past two days she became actively suicidal,
thinking of googling ways to kill herself: specifically which of
her medications would be most effective.  She did not actually
___ which ones would be most effective to end her life, she
instead reported these thoughts to her therapist who sent both
patient (on ___ and her mother to the ___. 

Course in Emergency Department (including behavior, medications
given):
Reports poor sleep and receiving 1 mg of Ativan to help her last
night in ___.  No restraints or behavioral concerns.
 
Past Medical History:
Past psychiatric history:
Depressive Episodes
No prior SA's 
Dr. ___ with ___ - Citalopram, 
Zolpidem,
Trazodone
___ - Therapy Meeting Point)
___ PHP starting ___

From Dr. ___ ___ ___ Consult Note: 
PAST MEDICAL HISTORY:
- Pharyngitis, streptococcal 
- NOCTURNAL ENURESIS 
- Abdominal pain
- Obesity 
- Vestibulitis, vulvar 
- Pelvic pain in female 
- Anxiety 
- Severe episode of recurrent major depressive disorder, without
psychotic features 
- Generalized anxiety disorder 
 
Social History:
SUBSTANCE ABUSE HISTORY:
- Smoking: None
- EtOH: ___ drinks/week, never blacked out
- Illicit Drugs: rare marijuana use

FORENSIC HISTORY:
Arrests: None
Convictions and jail terms: None

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Maternal Aunt: ___ and ___
Paternal Cousin: ___ Grandfather: PTSD
___ Grandmother: ___
Maternal Sister: Possible alcoholism 
 
Physical Exam:
Physical Examination:
VS:  BP: 119/80  HR: 91  temp: 98.3 resp: 18 O2 sat: 100% 
height:
5'5.5'  weight: 171.8 lbs

General- NAD, partially shaved head, wearing hospital gown,
hospital socks
Skin- Excoriations around nails where patient obviously bites 
and
picks at toenails/fingernails 
HEENT - teeth appear cared for, MMM
Neck and Back- Tatoo beginning at nape of neck, appears to be a
moon
Lungs- CTAB
CV- RRR 
Abdomen: Soft, NTND, Hypoactive Bowel Sounds, NTTP
Extremities- Excoriations around nails (fingers/toes) where
patient bites/picks 
Neuro- No gait instability, moves all extremities,  
CN:   
     PERRL: yes 
     visual fields: intact 
     EOM: intact 
     facial sensation to light touch in all 3 divisions: yes
     facial symmetry on eye closure and smile:
     hearing bilaterally to rubbing fingers: yes
     phonation: no dysarthria 
     head turning and shoulder shrug intact 
     tongue: symmetrical
 
Motor:
      Moves arms and legs with normal strength and no deficits   


Patellar reflex intact 
Sensation: intact 
Coordination:
     Patient walks down hallway with no problems, gait steady, 
no
trouble eating in front of interviewer 
Gait: steady 

 
Pertinent Results:
___ 10:34PM URINE  UCG-NEGATIVE
___ 10:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:34PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:34PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 10:34PM URINE  RBC-2 WBC-11* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 10:34PM URINE  MUCOUS-FEW
___ 07:55PM   GLUCOSE-123* UREA N-8 CREAT-0.8 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-26 ANION GAP-18
___ 07:55PM   TSH-1.8
___ 07:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:55PM   WBC-9.2 RBC-5.08 HGB-14.8 HCT-45.5* MCV-90 
MCH-29.1 MCHC-32.5 RDW-11.7 RDWSD-37.9
___ 07:55PM   NEUTS-61.2 ___ MONOS-7.4 EOS-1.4 
BASOS-0.4 IM ___ AbsNeut-5.65 AbsLymp-2.70 AbsMono-0.68 
AbsEos-0.13 AbsBaso-0.04
___ 07:55PM   PLT COUNT-265
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  He was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.
 
LEGAL: ___
PSYCHIATRIC:  The patient was treated for MDD vs Adjustment 
Disorder with Depressed Mood/Anxiety.  Notably, Dr. ___ 
started her on citalopram 10 mg at their first appointment on 
___.  ___ thought after two doses of citalopram, it made her 
stomach upset so Dr. ___ her to go down to 5 mg.  
During admission, we discussed how GI symptoms are typically 
only a problem within the first few days of starting 
antidepressant SSRI's.  We emphasized the need for an SSRI to 
address depression and anxiety which ___ agreed to.  She was 
started on citalopram 5 mg at night (felt it made her drowsy) 
and titrated up to 10 mg on ___.  Risks and benefits were 
discussed and her parents were also actively involved in 
meetings with the patient as they were often visiting. She will 
continue to titrate citalopram with Dr. ___ we heavily 
emphasized the fact that she needs to wait at least four weeks 
for the antidepressant to really begin to take effect.  She is 
willing to give the medication time.  

To address insomnia, we ended up choosing Ativan 1 mg as 
Trazodone 50mg had not been working; vistaril was not fully 
successful either.  We have agreed to discharge her on 1mg for 
several nights and then have her taper down to 0.___.  The patient also began using coping skills (drawing, 
reading) and attending groups as she got more sleep.  She firmly 
believed that the root of her suicidality was the extreme lack 
of sleep.  

On discharge she is future-oriented, ready to go back to the 
___, ready to meet up with friend and move forward. 
 She is positive, and for the first time in a while reports I 
"feel like myself".  We feel the acute suicidality is gone and 
the patient is help-seeking.  She is returning home with her 
mother and has agreed to use coping skills and talk to someone 
should these thoughts return. 
  
GENERAL MEDICAL CONDITIONS: The patient was not treated for any 
medical conditions during her stay on the unit.  She had a small 
amount WBC's in her urine on admission but did not complain of 
any urinary symptoms; no further action was taken. 

The patient was given medicated foot wash for acute paronychia. 
Muciprocin ointment 2% was ordered for her TID. 
  
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities. Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family/social/work issues.  Patient and family were 
involved in family meeting focused on psychoeducation and 
discharge planning.
 
#) COLLATERAL CONTACTS: Mother and father were actively involved 
in the case and visited every day.  Both were present at family 
meeting in which coping strategies and medications were 
discussed. 
 
#) FAMILY INVOLVEMENT:  Parents were present at a family meeting 
discussing coping skills, medication management (risks and 
benefits of anti-depressants) on ___.  Social 
supports and ideas for transitioning more easily to adulthood 
were also discussed. 
 
#) INTERVENTIONS:
- Medications: as per above 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: 
- Behavioral Interventions (e.g. encouraged DBT skills, ect):
- Guardianship:
- D___ Referral:  The team submitted a DMH application for the 
patient to receive services, specifically requesting PREP 
program participation and community-based support. 
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting these medications, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
 take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
RISK ASSESSMENT:
Chronic risk factors are gender, age, sexual orientation..

Modifiable risk factors are sleep deprivation, low mood,
depression, high anxiety, recent transition to adulthood.

Protective factors include strong parental support, 
well-educated
and extremely good communication skills/self-expression, good 
insight into emotional state, ability to hold a job, friends and 
social support. 

The patient is no longer having active SI, is future-oriented,
starting to utilize coping skills for anxiety, and would like a
high level of therapy that may be offered to her in an 
outpatient
setting and also at the partial program (Triangle Program).  We
feel that she is ready for discharge today and has appropriate
outpatient follow-up.  
 
PROGNOSIS:
Good with continued outpatient follow-up and continued support 
of her family and many friends.  Overall, the patient is an 
intelligent, high-functioning young woman who is very good at 
communicating with others.  We feel that with further outpatient 
work, use of coping skills, and gradual transition to adulthood, 
___ be successful.  One of her strongest skill is the 
ability to communicate and express herself.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 5 mg PO DAILY depression/anxiety 
2. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
Citalopram 10 mg PO Daily depression/anxiety 
Ativan 1 mg QHS insomnia 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder vs Adjustment Disorder with depressed 
mood 

 
Discharge Condition:
*Appearance: partially shaved head with black hair, partially
shaved head with black hair, in striped capri sweatpants, black
zip up, hospital socks. Excoriations around nails and toenails
from
biting/picking, moon tattoo on upper back near nape of neck,
unshaved legs, no apparent trauma/bruising/cuts/scrapes easily
visible
  Behavior: coopeartive, pleasant.
  *Mood and Affect: 'I feel great today. I finally feel like
myself again' Congruent affect. Smiling.
  *Thought process: Linear, goal-oriented, no LOA 
  *Thought Content: No active SI, feels more motivated and that
having 4 nights of good sleep has made a huge difference. Using
coping skill of drawing when is anxious.
 *Judgment and Insight: good/good
  Cognition:
    *Attention: Attends to interviewer
     Orientation: ___, Date
    *Memory: Not formally tested but intact to recent and remote
events of weekend and life in general 
    *Fund of knowledge: Average, well-educated 
    *Speech: normal rate, tone, volume, prosody (no pressured
speech)
    *Language: fluent ___, no paraphasic errors 

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
ideation with a plan.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___